US04093812
Add 29.4 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile to 59 ml of concentrated sulfuric acid while stirring and maintaining the temperature at 40° C for 5 hours. Pour the solution onto 500 g of ice and water. Seperate the formed precipitate by vacuum filtration and wash it with water until it is neutral to obtain a 98% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide [m.p. 236° to 238° C (from dimethylformamide/methanol)].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile | 29.4 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C#N)C1=CC=CC=C1 | C14H8N4O3
reactant | sulfuric acid | 59 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | 98% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
